US09419233B2
4,4′-Dibromo-biphenyl-2,2′-diamine
To a solution of 4,4′-Dibromo-2,2′-dinitro-biphenyl (15.0 g, 37.3 mmol) in ethanol (abs., 186 cm3) was added 32% w/w aqueous HCl (124 cm3). Tin powder (17.6 g, 147 mmol) was added portion-wise over 10 minutes and the reaction mixture was heated to reflux at 100° C. for 2 hours. After cooling, the mixture was poured into ice water (ca. 400 cm3) and then basified with 20% w/w aqueous NaOH solution (150 cm3). The product was extracted with diethyl ether and the organic layer washed with brine, dried over anhydrous MgSO4 and evaporated to dryness. Purification by recrystallization from ethanol afforded the title compound (9.2 g, 72%) as light brown crystals (Found: C, 42.1; H, 3.0; N, 8.0. C12H10Br2N2 requires C, 42.2; H, 3.0; N 8.2%); νmax/cm−1 (Neat solid) 792, 994, 1406, 1477, 1608, 3210, 3357, 3443; δH(400 MHz, CDCl3) 6.92 (6H, s, ArH), 3.78 (4H, brs, NH2); δC(100 MHz, CDCl3) 118.1, 121.7, 122.0, 122.7, 132.2, 145.4; m/z (ES) 340.9283 ([M+H)+. C12H11Br2N2 requires 340.9284), 343.1 (100%), 263.1 (80), 185.1 (25).

reactant | 4,4′-Dibromo-2,2′-dinitro-biphenyl | 37.3 mmol, 15.0 g | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)[N+](=O)[O-])[N+](=O)[O-] | C12H6Br2N2O4
reactant | HCl | 124 cm3 | Cl | ClH
reactant | Tin | 147 mmol, 17.6 g | [Sn] | Sn
reactant | NaOH | 150 cm3 | [OH-].[Na+]
solvent | ethanol | 186 cm3 | C(C)O | C2H6O
product | 4,4′-Dibromo-biphenyl-2,2′-diamine | 9.2 g, 72% | BrC=1C=C(C(=CC1)C=1C(=CC(=CC1)Br)N)N | C12H10Br2N2
